US08802667B2
Methyl 1-methyl-4-(1-methyl-4-(1-methyl-4-(1-methyl-4-nitro-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxylate
In a hydrogenation bottle was added methyl 1-methyl-4-(1-methyl-4-nitro-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxylate (2.0 g, 6.53 mmol), 80 ml of DMA, 500 mg of 10% Pd/C (50% wet) and 0.4 ml of HCl (conc.). After evacuation under vacuum, the bottle was placed under 50 psi hydrogen and shaken for 4 hours. The mixture was filtered through celite, evaporated to dryness without further purification. To the dry mixture was added 1-methyl-4-(1-methyl-4-nitro-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxylic acid (1.49 g, 5.10 mmol), 30 ml of DMA, EDC (4.0 g, 20.8 mmol) and DIPEA (1.0 ml, 5.75 mmol). The mixture was stirred under Ar overnight, concentrated, diluted with Hexane/EtAc (1:1, 10 ml) and water 10 ml to form precipitates. The precipitates were filtered, washed 1M NaH2PO4, 1 M NaHCO3 and water, dried over P2O5 under vacuum to afford 2.13 g (76%) of the title product. 1H NMR (DMSO) 10.28 (s, 1H), 10.25 (s, 1H), 9.78 (s, 1H), 8.18 (s, 1H), 7.86 (s, 1H), 7.52 (s, 1H), 7.31 (d, 1H, J=1.7 Hz), 7.25 (s, 1H), 7.23 (s, 1H), 7.17 (d, 1H, J=1.5 Hz), 6.98 (s, 1H), 6.71 (s, 1H), 4.02 (s, 3H), 3.94 (s, 3H), 3.83 (s, 3H), 3.73 (s, 3H), 3.56 (s, 3H), 1.47 (s, 9H); 13C NMR 160.78, 158.93, 158.06, 157.81, 135.25, 127.28, 126.36, 123.78, 122.57, 121.91, 121.40, 120.94, 119.65, 110.73, 108.39, 107.34, 103.75, 80.81, 51.57, 39.74, 38.52, 38.22, 37.08, 28.63; MS m/z+573.2 (M+Na).

reactant | methyl 1-methyl-4-(1-methyl-4-nitro-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxylate | 6.53 mmol, 2.0 g | CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)[N+](=O)[O-])C)C(=O)OC | C13H14N4O5
reactant | HCl | 0.4 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | 1-methyl-4-(1-methyl-4-nitro-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxylic acid | 5.10 mmol, 1.49 g | CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)[N+](=O)[O-])C)C(=O)O | C12H12N4O5
reactant | EDC | 20.8 mmol, 4.0 g
reactant | DIPEA | 5.75 mmol, 1.0 ml | CCN(C(C)C)C(C)C | C8H19N
catalyst | Pd/C | 500 mg | [Pd] | Pd
solvent | DMA | 30 ml | CC(=O)N(C)C | C4H9NO
solvent | DMA | 80 ml | CC(=O)N(C)C | C4H9NO
product | Methyl 1-methyl-4-(1-methyl-4-(1-methyl-4-(1-methyl-4-nitro-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxamido)-1H-pyrrole-2-carboxylate | 2.13 g, 76% | CN1C(=CC(=C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)NC(=O)C=1N(C=C(C1)[N+](=O)[O-])C)C)C)C(=O)OC | C25H26N8O7
